* /home/hemanth/esim-workspace/cmfadd32dd/cmfadd32dd.cir

.subckt cmfadd32dd vin_a vin_b vin_c vdd sum carry

xM1  vdd vin_a Net-_M1-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM7  Net-_M1-Pad3_ vin_b Net-_M14-Pad2_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM2  vdd vin_a Net-_M2-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM3  vdd vin_b Net-_M2-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM8  Net-_M2-Pad3_ vin_c Net-_M14-Pad2_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM4  vdd vin_c Net-_M4-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM5  vdd vin_a Net-_M4-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM6  vdd vin_b Net-_M4-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM9  Net-_M4-Pad3_ Net-_M14-Pad2_ Net-_M12-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM21  Net-_M14-Pad2_ vin_b Net-_M15-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM15  Net-_M15-Pad1_ vin_a GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM22  Net-_M14-Pad2_ vin_c Net-_M16-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM16  Net-_M16-Pad1_ vin_a GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM17  Net-_M16-Pad1_ vin_b GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM23  Net-_M12-Pad3_ Net-_M14-Pad2_ Net-_M18-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM18  Net-_M18-Pad1_ vin_c GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM19  Net-_M18-Pad1_ vin_a GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM20  Net-_M18-Pad1_ vin_b GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM10  vdd vin_a Net-_M10-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM11  Net-_M10-Pad3_ vin_b Net-_M11-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM12  Net-_M11-Pad3_ vin_c Net-_M12-Pad3_ vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM26  Net-_M12-Pad3_ vin_c Net-_M25-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM25  Net-_M25-Pad1_ vin_b Net-_M24-Pad1_ GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM24  Net-_M24-Pad1_ vin_a GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM13  vdd Net-_M12-Pad3_ sum vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5		
xM28  sum Net-_M12-Pad3_ GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		
xM14  vdd Net-_M14-Pad2_ carry vdd sky130_fd_pr__pfet_01v8 w=1 l=0.5			
xM27  carry Net-_M14-Pad2_ GND GND sky130_fd_pr__nfet_01v8 w=0.42 l=0.5		


.ends cmfadd32dd
